### PR TITLE
[Merged by Bors] - chore: tidy various files

### PR DESCRIPTION
**Pull request by Ruben-VandeVelde**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by grunweg** [comment]
Can you merge master, please? Thanks!

File: Mathlib/Analysis/SpecialFunctions/MulExpNegMulSqIntegral.lean [hunk 1]
```diff
@@ -190,8 +190,8 @@ theorem dist_integral_mulExpNegMulSq_comp_le (f : E →ᵇ ℝ)
         (measure_mono (Set.compl_subset_compl_of_subset (Set.subset_union_right))) hKP'
   -- stone-weierstrass approximation of f on K
```
Comment (grunweg) [inline Mathlib/Analysis/SpecialFunctions/MulExpNegMulSqIntegral.lean:191]: pre-existing:
```suggestion
  -- Stone-Weierstrass approximation of f on K

File: Mathlib/GroupTheory/SpecificGroups/Alternating.lean [hunk 2]
```diff
@@ -306,7 +306,8 @@ theorem isConj_swap_mul_swap_of_cycleType_two {g : Perm (Fin 5)} (ha : g ∈ alt
     have h13 : (1 : Fin 5) ≠ 3 := by decide
     rw [Disjoint.cycleType, (isCycle_swap h04).cycleType, (isCycle_swap h13).cycleType,
       card_support_swap h04, card_support_swap h13]
-    · rfl
+    · simp only [Multiset.coe_singleton, Multiset.singleton_add, Multiset.replicate_succ,
```
Comment (grunweg) [inline Mathlib/GroupTheory/SpecificGroups/Alternating.lean:309]: Do you need to squeeze this simp? If so, can you add a comment, please?

File: Mathlib/AlgebraicGeometry/EllipticCurve/Jacobian.lean [hunk 3]
```diff
@@ -172,7 +172,8 @@ lemma smul_eq (P : Fin 3 → R) {u : R} (hu : IsUnit u) : (⟦u • P⟧ : Point
 
 lemma smul_equiv_smul (P Q : Fin 3 → R) {u v : R} (hu : IsUnit u) (hv : IsUnit v) :
     u • P ≈ v • Q ↔ P ≈ Q := by
-  erw [← Quotient.eq_iff_equiv, ← Quotient.eq_iff_equiv, smul_eq P hu, smul_eq Q hv]
+  rw [← Quotient.eq_iff_equiv, ← Quotient.eq_iff_equiv]
+  erw [smul_eq P hu, smul_eq Q hv]
```
Comment (Vierkantor) [inline Mathlib/AlgebraicGeometry/EllipticCurve/Jacobian.lean:176]: Did you try `erw?` here to see if there was any help? If the `erw` is difficult to get rid of, could you add a comment explaining why?

(I was talking with Kim a few hours ago, and they decided that for issues like `![1, 2, 3] 0` not reducing to `1`, which happens a lot for the elliptic curve library apparently, keeping `erw` is fine.)

File: Mathlib/MeasureTheory/Integral/BochnerL1.lean [hunk 4]
```diff
@@ -438,7 +438,7 @@ theorem negPart_toSimpleFunc (f : α →₁ₛ[μ] ℝ) :
   rw [h₁]
   show max _ _ = max _ _
   rw [h₂]
-  rfl
+  simp only [Pi.neg_apply, SimpleFunc.coe_neg]
```
Comment (grunweg) [inline Mathlib/MeasureTheory/Integral/BochnerL1.lean:441]: Can you comment about the squeezing, again?

**Review by Vierkantor — APPROVED** [review]
Nice work!

bors d+

**Review by grunweg — COMMENTED** [review]
I haven't reviewed `Jacobian.lean` yet, as that file has a merge conflict. I have only minor comments about the rest. Thanks for doing this!

**Comment by grunweg** [comment]
Oh well, now your PR was reviewed twice.

File: Mathlib/AlgebraicGeometry/EllipticCurve/Jacobian.lean (hunk 3 above)
Comment (Ruben-VandeVelde) [reply Mathlib/AlgebraicGeometry/EllipticCurve/Jacobian.lean]: Kim fixed this one already :)
